US08012606B2
To a solution of 0.161 g (0.715 millimole) of palladium (II) acetate in 20 ml of xylene was added 0.58 g (2.86 millimoles) of tri-tert-butylphosphine and the mixture was heated at 80° C. for 30 minutes with stirring. This solution was transferred into a solution heated at 80° C. of 5.24 g (0.0143 mole) of 2,7-bis(phenylamino)dibenzodioxin, 7.41 g (0.0358 mole) of 1-bromonaphthalene, and 5.77 g (0.06 mole) of sodium tert-butoxide in 260 ml of xylene. The mixture was heated up to 135° C. and heated at this temperature with stirring for 4 hours. The reaction mixture was cooled to room temperature, and 200 ml of water was added. The organic layer was separated from the aqueous layer, the aqueous layer was washed with 200 ml of toluene, and the organic layers were combined, concentrated, and dried under reduced pressure to give 9.5 g of a crude product. The crude product was subjected to reslurrying under heat with ethyl acetate and dried under reduced pressure to give 3.40 g (0.0055 mole, 38.5% yield) of 2,7-bis(N-1-naphthyl-N-phenylamino)dibenzodioxin. The product showed a purity of 98.3 area % (HPLC, 254 nm). The product was purified further by sublimation; FD-MS, m/z 618 [M]+, m.p. 315° C., Tg 103° C.

reactant | tri-tert-butylphosphine | 2.86 millimoles, 0.58 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 2,7-bis(phenylamino)dibenzodioxin | 0.0143 mole, 5.24 g | C1(=CC=CC=C1)NC1=CC2=C(OC3=C(O2)C=CC(=C3)NC3=CC=CC=C3)C=C1 | C24H18N2O2
reactant | 1-bromonaphthalene | 0.0358 mole, 7.41 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | sodium tert-butoxide | 0.06 mole, 5.77 g | CC(C)([O-])C.[Na+]
reactant | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | xylene | 260 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium (II) acetate | 0.715 millimole, 0.161 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | 2,7-bis(N-1-naphthyl-N-phenylamino)dibenzodioxin | 0.0055 mole, 3.40 g, 38.5% yield | C1(=CC=CC2=CC=CC=C12)N(C1=CC=CC=C1)C1=CC2=C(OC3=C(O2)C=CC(=C3)N(C3=CC=CC2=CC=CC=C32)C3=CC=CC=C3)C=C1 | C44H30N2O2
